US07109229B2
(a) 6-Trifluoromethyl-N,N-dimethyl-1H-indole-3-methanamine.
To a solution of 6-trifluoromethylindole (1.0 g, 5.4 mmol) in CH2Cl2 (10 mL) was added N,N-dimethylmethylene ammonium chloride (0.63 g, 6.75 mmol, 1.25 eq.) in one portion and the resultant mixture was stirred at rt for 2 h under N2. 1M NaOH (6.75 mL,) was added, and the reaction mixture was extracted into methylene chloride. The organic layer was washed with aqueous saturated NaCl and dried (MgSO4). The solvent was removed in vacuo to give 1.3 g (100%) of title compound.

reactant | 6-trifluoromethylindole | 5.4 mmol, 1.0 g | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
reactant | N,N-dimethylmethylene ammonium chloride | 6.75 mmol, 0.63 g, 1.25 eq. | [Cl-].CC=[N+]=CC
reactant | NaOH | 1M, 6.75 mL | [OH-].[Na+]
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-Trifluoromethyl-N,N-dimethyl-1H-indole-3-methanamine | 1.3 g, 100% | FC(C1=CC=C2C(=CNC2=C1)CN(C)C)(F)F | C12H13F3N2
